US08012982B2
Step 1: tert-butyl 4-[4-(1-{[4-(acetyloxy)phenyl]amino}vinyl)phenyl]piperazine-1-carboxylate
1.1 eq of Et3N and 2 eq of Ac2O were added to a solution of tert-butyl 4-(4-{[(4-hydroxyphenyl)amino]carbonyl}phenyl)piperazine-1-carboxylate in dry DCM (0.1 M) (prepared as described in published International patent application WO98/00134) and the solution stirred at RT for 16 h under a nitrogen atmosphere. The reaction mixture was diluted with DCM and the organic phase was washed with aqueous HCl (1N) (twice), saturated aqueous NaHCO3 and then brine. The organic phase was dried over Na2SO4, filtered and the solvent evaporated in vacuo to afford the title compound as a white solid (90%); MS (ES+) m/z 440 (M+H)+

reactant | Et3N | 1.1 eq | CCN(CC)CC | C6H15N
reactant | Ac2O | 2 eq | CC(=O)OC(=O)C | C4H6O3
reactant | tert-butyl 4-(4-{[(4-hydroxyphenyl)amino]carbonyl}phenyl)piperazine-1-carboxylate | OC1=CC=C(C=C1)NC(=O)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C22H27N3O4
solvent | DCM | 0.1 M | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-[4-(1-{[4-(acetyloxy)phenyl]amino}vinyl)phenyl]piperazine-1-carboxylate | 90% | C(C)(=O)OC1=CC=C(C=C1)NC(=C)C1=CC=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C | C25H31N3O4
